US05986124
306 mg Of allyl chloride, 530 mol of dimethyldimethoxysilane, and 77 mg of toluene were placed in a glass reaction tube and 0.01 ml of acetic acid was added to this mixture. Then, 0.005 mol of a toluene solution of a 0-valent platinum complex of divinyltetramethyldisiloxane (platinum content: 0.4 wt %) was added to this mixture. The reaction tube was sealed and heated for 2 hours in an oil bath at 50° C. When the contents were analyzed by GC-MS following cooling, the conversion rate of allyl chloride was 100% and γ-chloropropylmethyldimethoxysilane was produced at a yield of 40%.

reactant | allyl chloride | 306 mg | C(C=C)Cl | C3H5Cl
reactant | dimethyldimethoxysilane | 530 mol | C[Si](OC)(OC)C | C4H12O2Si
reactant | toluene | 77 mg | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 0.005 mol | C1(=CC=CC=C1)C | C7H8
reactant | divinyltetramethyldisiloxane | C(=C)[Si](O[Si](C)(C)C)(C)C=C | C8H18OSi2
solvent | acetic acid | 0.01 ml | C(C)(=O)O | C2H4O2
product | γ-chloropropylmethyldimethoxysilane | yield of 40% | ClCCC[Si](OC)(OC)C | C6H15ClO2Si
